US04725600
The mixture of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-(2-formylhydrazino)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (0.81 g) and polyphosphoric acid (8.2 g, 116% as phosphoric acid) was stirred at 110° C. for 2 hours and cooled to ambient temperature. The reaction mixture was poured into water and neutralized with aqueous sodium hydroxide solution. The precipitates were collected by filtration and washed with water to give 7,8-dihydro-5-(3,4-dimethoxyphenyl)-8-methyl-7-(2,4,6-trimethylphenylimino)-1,2,4-triazolo[4,3-a]pyrimidine (0.65 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-(2-formylhydrazino)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 0.81 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)NNC=O)C)=NC1=C(C=C(C=C1C)C)C | C23H27N5O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 7,8-dihydro-5-(3,4-dimethoxyphenyl)-8-methyl-7-(2,4,6-trimethylphenylimino)-1,2,4-triazolo[4,3-a]pyrimidine | 0.65 g | COC=1C=C(C=CC1OC)C1=CC(N(C=2N1C=NN2)C)=NC2=C(C=C(C=C2C)C)C | C23H25N5O2
